US05260285
3-Cyclopropyl-3-oxo-2-[(2'-nitrobiphen-4-yl)methyl]propanenitrile
To a solution of 2.61 g (24.0 mmol) 3-cyclopropyl-3-oxopropanenitrile in 150 mL DMSO was added 1.01 g (25.2 mmol) 60% NaH in oil. After 1 hour, 3.50 g (12.0 mmol) 4'-bromomethyl-2-nitrobiphenyl was added all at once to the solution. After 3 hours, the solution was poured into brine and extracted 3 times with ether. The combined organic material was dried over MgSO4, stripped of solvent in vacuo, and was chromatographed on silica gel under medium pressure using 3/40/57 EtOAc/CH2Cl2/hexanes to give 1.29 g (34% yield) of the title compound as a yellow glass. Rf 0.13 in 3/40/57 EtOAc/CH2Cl2/hexanes, visualized by UV and ammonium molybdate/ceric sulfate stain; Rf of the dialkylated material is 0.19 in the same solvent mixture.

reactant | 3-cyclopropyl-3-oxopropanenitrile | 24.0 mmol, 2.61 g | C1(CC1)C(CC#N)=O | C6H7NO
reactant | NaH | 25.2 mmol, 1.01 g | [H-].[Na+]
reactant | 4'-bromomethyl-2-nitrobiphenyl | 12.0 mmol, 3.50 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H10BrNO2
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 3-Cyclopropyl-3-oxo-2-[(2'-nitrobiphen-4-yl)methyl]propanenitrile | 1.29 g, 34% yield | C1(CC1)C(C(C#N)CC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C19H16N2O3
